US07585885B2
5-(Methyl-propylcarbamoyl)-isophthalic acid 1-ethyl ester 3-isopropyl ester
Sonicate a mixture of 5-(methyl-propyl-carbamoyl)-isophthalic acid monoethyl ester (146 mg, 0.5 mmol), isopropanol (0.75 mL) and concentrated sulfuric acid (25 μL) then stir the resulting solution at room temperature for one month. Add 1-hydroxybenzotriazole (68 mg, 0.5 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (96 mg, 0.5 mmol), and triethylamine (100 μL). Stir overnight at room temperature. Add dichloromethane (25 mL) and wash with 0.1 N citric acid (5 mL), saturated aqueous sodium bicarbonate (10 mL), saturated aqueous sodium chloride (10 mL), dry (magnesium sulfate) and concentrate (149 mg, 89%).

reactant | 5-(methyl-propyl-carbamoyl)-isophthalic acid monoethyl ester | 0.5 mmol, 146 mg | C(C)OC(C1=CC(C(=O)O)=CC(=C1)C(N(CCC)C)=O)=O | C15H19NO5
reactant | sulfuric acid | 25 μL | S(O)(O)(=O)=O | H2O4S
reactant | 1-hydroxybenzotriazole | 0.5 mmol, 68 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.5 mmol, 96 mg | Cl.CN(CCCN=C=NCC)C
solvent | triethylamine | 100 μL | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 0.75 mL | C(C)(C)O | C3H8O
product | 5-(Methyl-propylcarbamoyl)-isophthalic acid 1-ethyl ester 3-isopropyl ester | C(C)(C)OC(C=1C=C(C(=O)OCC)C=C(C1)C(N(CCC)C)=O)=O | C18H25NO5
